US03931268
15.8 g. of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride were dissolved in 50 ml. of methylene chloride and, while stirring, added dropwise to a solution of 6.2 g. of 2-amino-1-butanol in 50 ml. of methylene chloride. Stirring was continued for 2 more hours at room temperature and 30 minutes at 40°, whereupon 50 ml. of water were added to the solution, which was then worked up according to Example 3. The yellowish glassy material obtained was dissolved in 200 ml. of methanol, shaken with 2 g. of 5% palladium-carbon in a hydrogen atmosphere, whereby 2/3 of the calculated amount of hydrogen had been absorbed after about 6 hours. The solution was then filtered and the filtrate concentrated in vacuo. The colorless residue was dissolved in 50 ml. of methanol and to it was added a solution of 3.2 g. of anhydrous oxalic acid in 25 ml. of methanol. Upon addition of some ether, a salt precipitated, which was recrystallized from ethanol/acetonitrile, yielding 4-[(2-methylhydrazino)-methyl]-benzoic acid (1-hydroxymethylpropyl)-amide oxalate melting at 141°-143° (dec.).

reactant | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-amino-1-butanol | NC(CO)CC | C4H11NO
reactant | water | O | H2O
reactant | methanol | CO | CH4O
product | 4-[(2-methylhydrazino)-methyl]-benzoic acid (1-hydroxymethylpropyl)-amide oxalate | C(C(=O)O)(=O)O.OCC(CC)NC(C1=CC=C(C=C1)CNNC)=O | InChI=1S/C13H21N3O2.C2H2O4/c1-3-12(9-17)16-13(18)11-6-4-10(5-7-11)8-15-14-2;3-1(4)2(5)6/h4-7,12,14-15,17H,3,8-9H2,1-2H3,(H,16,18);(H,3,4)(H,5,6)
